US04481214
Preparation of 7-acetamido-trans-4-amino-3,4-dihydro-2,2-dimethyl-6-nitro-2H-benzo[b]pyran-3-ol
7-Acetamido-3,4-epoxy-3,4-dihydro-2,2-dimethyl-6-nitro-2H-benzo[b]pyran (0.76 g,) was dissolved in dry ethanol and saturated with dry ammonia, and stirred at room temperature for 21 hr. Evaporation gave a crude mixture which was purified on the chromatotron (using pentane-ethyl acetate in a gradient elution), to give the title compound (280 mg).

reactant | 7-Acetamido-3,4-epoxy-3,4-dihydro-2,2-dimethyl-6-nitro-2H-benzo[b]pyran | 0.76 g | C(C)(=O)NC=1C(=CC2=C(OC(C3C2O3)(C)C)C1)[N+](=O)[O-] | C13H14N2O5
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 7-acetamido-trans-4-amino-3,4-dihydro-2,2-dimethyl-6-nitro-2H-benzo[b]pyran-3-ol | 280 mg | C(C)(=O)NC=1C(=CC2=C(OC([C@H]([C@@H]2N)O)(C)C)C1)[N+](=O)[O-] | C13H17N3O5
